*$
*//-----------------------------------------------------------------------//
*//   Part		: HHXD350ARA270MF61G
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C
*//   Model	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT  HHXD350ARA270MF61G_20deg-C 1 2
C1 4 2 1.98e-05
C2 5 2 2.67e-06
C3 6 2 9.85e-07
R1 3 4 2.34e-02
R2 4 5 4.53e-01
R3 5 6 7.62e+00
L1 1 3 2.60e-09
.ENDS

*$